US06872744B2
Preparation of (3-methanesulfonyl-phenyl)-hydrazine
To a solution of 3-methanesulphonyl-phenylamine (2.5 g) in 6 mL HCl was added a solution of NaNO2 in 5 mL of H2O at −5° to 0° C. After stirring for 30 min the resulted diazonium salt was poured into a cold solution (−10° to −15° C.) of stannous chloride in 6 ml HCl. The mixture of resulted hydrazine hydrochloride in HCl was stored in the refrigerator overnight. The solution was basified to pH 10, by addition of a 6N solution of NaOH, and extracted with THF. The organic layer was washed, dried over MgSO4, and evaporated to yield 2 g of a light brown solid (3-methanesulfonyl-phenyl)-hydrazine.

reactant | 3-methanesulphonyl-phenylamine | 2.5 g | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | hydrazine hydrochloride | Cl.NN
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 6 mL | Cl | ClH
solvent | H2O | 5 mL | O | H2O
solvent | HCl | 6 ml | Cl | ClH
product | (3-methanesulfonyl-phenyl)-hydrazine | 2 g | CS(=O)(=O)C=1C=C(C=CC1)NN | C7H10N2O2S
